US07632790B2
Over a period of 30 min, a solution of 40.7 g (374 mmol) of ethyl bromide in 100 mL of dry tetrahydrofuran was added dropwise to a stirred suspension of 9.08 g (374 mmol) of magnesium turnings in 5 mL of dry tetrahydrofuran, with the reaction being initiated by occasional heating with a heat gun. The reaction mixture was then stirred for additional 3 h at reflux. The reaction was allowed to cool down to room temp., and a solution of 12.6 g (180 mmol) of but-3-yn-2-ol in 80 mL of dry tetrahydrofuran was added dropwise with stirring. The reaction mixture was then again heated to reflux for 4 h, prior to removal of the heating bath. At room temp., a solution of 25.0 g (195 mmol) of 2,2-dimethylhexan-3-one in 90 mL of dry tetrahydrofuran was added with stirring within 35 min, and the reaction mixture was refluxed for another 2 d with stirring. The reaction mixture was then allowed to cool to room temp., and quenched with 500 mL of an aqueous satd. NH4Cl solution. The aqueous layer was extracted three times with 500 mL of ether each, the combined organic extracts were dried with sodium sulfate, and the solvent was evaporated on a rotary evaporator to provide 32.3 g (90%) of crude 5-tert-butyloct-3-yne-2,5-diol as a slightly yellowish oil, which was employed without further purification. A solution of 20.8 g (105 mmol) of this product in 300 mL of ethanol was hydrogenated by stirring at ambient pressure and temp. in an atmosphere of hydrogen in the presence of 3.11 g (2.92 mmol) of 10% palladium on barium sulfate and 300 mg (2.32 mmol) of quinoline. After 10 h of stirring, the catalyst was filtered off over a pad of Celite, and the solvent was removed on a rotary evaporator to provide 20.7 g (99%) of crude (3Z)-5-tert-butyloct-3-ene-2,5-diol, of which 19.6 g (98 mmol) was heated for 45 min in a Kugelrohr apparatus to 155° C./280 mbar in the presence of 2.00 g (14.7 mmol) of KHSO4. The evaporating reaction product was trapped in a bulb at −80° C., and further purified by flash chromatography (400 g of silica-gel, pentane/ether, 98:2) to afford 7.26 g of product. This was then distilled in a Kugelrohr apparatus to furnish at 70-80° C./20 mbar 6.24 g (34%) of the title compound as a colorless odoriferous liquid.

reactant | ethyl bromide | 374 mmol, 40.7 g | C(C)Br | C2H5Br
reactant | magnesium | 374 mmol, 9.08 g | [Mg] | Mg
reactant | but-3-yn-2-ol | 180 mmol, 12.6 g | CC(C#C)O | C4H6O
reactant | 2,2-dimethylhexan-3-one | 195 mmol, 25.0 g | CC(C)(C(CCC)=O)C | C8H16O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 90 mL | O1CCCC1 | C4H8O
product | 5-tert-butyloct-3-yne-2,5-diol | 32.3 g, 90% | C(C)(C)(C)C(C#CC(C)O)(CCC)O | C12H22O2
